US05312970
reacting said d-oxyphene with said propionic anhydride in said solution under acylating conditions at a temperature of from about 70° to about 80° C. so as to form d-propoxyphene; and

reactant | d-oxyphene | C[C@H](CN(C)C)[C@@](CC1=CC=CC=C1)(C2=CC=CC=C2)O | C19H25NO
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | d-propoxyphene | CCC(=O)O[C@](CC1=CC=CC=C1)(C2=CC=CC=C2)[C@H](C)CN(C)C | C22H29NO2
